US09399623B2
6-Chloro-2-(3-hydroxy-prop-1-ynyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexylmethyl)-amide (19)
To a solution of 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (500 mg, 1.24 mmol, 1.00 eq) in degassed 1,4-dioxane (2.50 mL, 5.00 V), prop-2-yn-1-ol (0.09 mL, 1.49 mmol, 1.20 eq) Et3N (0.52 mL, 3.71 mmol, 3.00 eq), Bis(triphenylphosphine)palladium (II) dichloride (34.86 mg, 0.05 mmol, 0.04 eq) and copper (I) iodide (4.81 mg, 0.02 mmol, 0.02 eq) were added. The reaction mixture was heated at 90° C. for 1 h. The reaction mixture was diluted with dichloromethane and filtered through celite. The filtrate was concentrated and subjected to column chromatography to afford the title compound (0.38 g, 0.94 mmol, 75.7%) as a off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.87 (t, J=5.92 Hz, 1H), 8.09 (d, J=8.61 Hz, 1H), 8.01 (d, J=9.01 Hz, 1H), 7.86 (d, J=9.11 Hz, 1H), 7.68 (d, J=8.72 Hz, 1H), 5.53 (t, J=6.13 Hz, 1H), 4.39 (d, J=6.01 Hz, 2H), 3.27 (t, J=6.32 Hz, 2H), 1.98-2.04 (m, 2H), 1.74-1.86 (m, 5H), 1.24-1.33 (m, 2H). m/z: 393.2 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | 1.24 mmol, 500 mg, 1.00 eq | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | prop-2-yn-1-ol | 1.49 mmol, 0.09 mL, 1.20 eq | C(C#C)O | C3H4O
solvent | 1,4-dioxane | 2.50 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Bis(triphenylphosphine)palladium | 0.05 mmol, 34.86 mg, 0.04 eq | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.02 mmol, 4.81 mg, 0.02 eq | [Cu]I
product | 6-Chloro-2-(3-hydroxy-prop-1-ynyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexylmethyl)-amide | 0.94 mmol, 0.38 g, 75.7% | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C#CCO)F | C20H19ClF2N2O2
